US05443970
6-t-Butyldimethylsilyloxymethyl-5,6-dihydro-4-hydroxy pyran-2-one (26.3 parts) was dissolved in ethanol (500 parts) and heated to 45° C.-55° C. Raney nickel (6.6 parts) was washed caustic free with water and then water free with ethanol and added to the pyran-2-one solution under a blanket of nitrogen. Hydrogen was passed through the rapidly stirred mixture until the reaction was complete, as judged by GC analysis. The catalyst was filtered off and the solvent removed at 40° C./20 mm to leave 6-t-butyldimethylsilyloxymethyl-4-hydroxytetrahydro pyran-2-one (25.7 parts, 96%, cis/trans ratio 82/18) as a greenish oil which solidified on standing.

reactant | 6-t-Butyldimethylsilyloxymethyl-5,6-dihydro-4-hydroxy pyran-2-one | [Si](C)(C)(C(C)(C)C)OCC1CC(=CC(O1)=O)O | C12H22O4Si
solvent | ethanol | C(C)O | C2H6O
product | 6-t-butyldimethylsilyloxymethyl-4-hydroxytetrahydro pyran-2-one | 96% | [Si](C)(C)(C(C)(C)C)OCC1CC(CC(O1)=O)O | C12H24O4Si
